US07968570B2
A mixture of 2-bromomethyl-6-chloro-benzoic acid methyl ester (0.132 g, 0.5 mmol), 3-phenyl-propylamine (0.081 mL, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-chloro-2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one (0.120 g, 84%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.01 (m, 2H), 2.68 (t, 2H), 3.66 (t, 2H), 4.28 (s, 2H), 7.14-7.44 (m, 8H). GC-MS: m/z 285 (M)+.

reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.5 mmol, 0.132 g | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | 3-phenyl-propylamine | 0.6 mmol, 0.081 mL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-chloro-2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one | 0.120 g, 84% | ClC=1C=CC=C2CN(C(C12)=O)CCCC1=CC=CC=C1 | C17H16ClNO
